US07049342B2
2-Ethyl-3-[3-[3-[4-(trifluoromethyl)phenyl]propyl]-4-methoxyphenyl]propanoic acid
A solution of 2-ethyl-3-[3-[3-[4-(trifluoromethyl)phenyl]propionyl]-4-methoxyphenyl]propanoic acid (224 mg, 0.548 mmol) in ethanol (30 mL) was hydrogenated for 7 hours with 10% palladium on carbon (250 mg) at room temperature under a hydrogen pressure of 392 kPa. The catalyst was removed by filtration and the filtrate was concentrated. The residue was purified by means of thin layer silica gel column chromatography (eluent: n-hexane: ethyl acetate:acetic acid=200:100:2 v/v/v) to afford 185 mg (86%) of the title compound as a yellow oil.

reactant | 2-ethyl-3-[3-[3-[4-(trifluoromethyl)phenyl]propionyl]-4-methoxyphenyl]propanoic acid | 0.548 mmol, 224 mg | C(C)C(C(=O)O)CC1=CC(=C(C=C1)OC)C(CCC1=CC=C(C=C1)C(F)(F)F)=O | C22H23F3O4
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | 2-Ethyl-3-[3-[3-[4-(trifluoromethyl)phenyl]propyl]-4-methoxyphenyl]propanoic acid | 185 mg, 86% | C(C)C(C(=O)O)CC1=CC(=C(C=C1)OC)CCCC1=CC=C(C=C1)C(F)(F)F | C22H25F3O3
